US04230707
A mixture of 6.0 g (0.038 mol) of 6-chloro-3-pyridinecarboxamide (Aldrich Chemical Company) and 10.0 g (0.054 mol) of 2-amino-5-methyl-3-thiophenecarboxylic acid, ethyl ester (Chemische Berichte, Vol. 99, pages 94-100, 1966) is heated in an oil bath at 185° C. for one hour then at 135°-140° C. for sixteen hours and finally at 195° C. for six hours. The mixture is cooled and then suspended in hot chloroform and filtered to give 0.6 g of 2-methyl-4-oxo-4H-pyrido[1,2-a]thieno[2,3-d]pyrimidine-7-carboxamide; mp 350°-354° C. after recrystallization from pyridine.

reactant | 6-chloro-3-pyridinecarboxamide | 0.038 mol, 6.0 g | ClC1=CC=C(C=N1)C(=O)N | C6H5ClN2O
reactant | 2-amino-5-methyl-3-thiophenecarboxylic acid, ethyl ester | 0.054 mol, 10.0 g | NC=1SC(=CC1C(=O)OCC)C | C8H11NO2S
solvent | chloroform | C(Cl)(Cl)Cl | CHCl3
product | 2-methyl-4-oxo-4H-pyrido[1,2-a]thieno[2,3-d]pyrimidine-7-carboxamide | 0.6 g | CC1=CC2=C(N=C3N(C2=O)C=C(C=C3)C(=O)N)S1 | C12H9N3O2S
